US04255434
42.7 g (0.2 mol) of 1-bromo-4-chloro-3,3-dimethyl-butan-2-one were added dropwise to a boiling suspension of 41 g (0.2 mol) of 4-(4-chlorophenyl)-phenol and 28 g (0.2 mol) of potassium carbonate in 300 ml of absolute acetone. The mixture was stirred for 15 hours under reflux and was then allowed to cool and the inorganic residue was filtered off and rinsed with acetone. The filtrate was concentrated by distilling off the solvent in vacuo. The residue crystallized after the addition of 50 ml of diisopropyl ether. 37.5 g (55% of theory) of 4-chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-butan-2-one of melting point 67°-68° C. were obtained.

reactant | 1-bromo-4-chloro-3,3-dimethyl-butan-2-one | 0.2 mol, 42.7 g | BrCC(C(CCl)(C)C)=O | C6H10BrClO
reactant | 4-(4-chlorophenyl)-phenol | 0.2 mol, 41 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9ClO
reactant | potassium carbonate | 0.2 mol, 28 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 4-chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-butan-2-one | 37.5 g, 55% | ClCC(C(COC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O)(C)C | C18H18Cl2O2
